US07176238B1
11a. 2,2-Bis(hydroxymethyl)-6,6-dimethyl-5,5-diphenyl-4-oxa-5-silaheptan-1-ol
2,2-bis(hydroxymethyl)propane-1,3-diol (10.55 g, 77 mmole) was taken up in dry pyridine (100 mL). Tert-butyldiphenylsilyl chloride (4.26 g, 15 mmole, 0.2 eq) was then added dropwise over 10 minutes to the pyridine solution at ambient temperature. The reaction mixture was stirred at ambient temperature for 24 hours. TLC (EtOAc) indicated that the reaction was complete. The reaction was diluted with EtOAc (250 mL), washed with 10% HCl (3×200 mL). The organic layer was dried over sodium sulfate and then concentrated in vacuo to afford a thick pale yellow oil. Column chromatography on silica gel (200 g), eluted with EtOAC followed by concentration of the appropriate fractions gave 5.01 g of the title compound as a clear colorless oil which solidified very slowly upon standing (86%). 1H NMR (300 MHz, CDCl3) δ 7.65 (m, 4H), 7.42 (m, 6H), 3.74 (s, 6H), 3.66 (s, 2H), 1.08 (s, 9H); MS (70 eV, EI) 392 (M+NH4)+.

reactant | 2,2-bis(hydroxymethyl)propane-1,3-diol | 77 mmole, 10.55 g | OCC(CO)(CO)CO | C5H12O4
reactant | Tert-butyldiphenylsilyl chloride | 15 mmole, 4.26 g, 0.2 eq | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | 2,2-Bis(hydroxymethyl)-6,6-dimethyl-5,5-diphenyl-4-oxa-5-silaheptan-1-ol | 5.01 g | OCC(CO)(CO[Si](C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C21H30O4Si
